US08664214B2
5-Amino-2-butylisoindolin-1-one (48.1 mg, 0.236 mmol) was added to a solution of 4-(benzylamino)nicotinaldehyde (50 mg, 0.236 mmol) in acetic acid (0.5 mL). Sodium triacetoxyborohydride (100 mg, 0.471 mmol) was added and the reaction mixture was stirred for 2 days. After the addition of more triacetoxyborohydride (50 mg, 0.235 mmol) and stirring for 6 h, water and sat aqueous NaHCO3 solution were added. The mixture was extracted with EtOAc, the combined org. layers washed with water and dried (MgSO4). Purification by HPLC provided 5-((4-(benzylamino)pyridin-3-yl)methylamino)-2-butylisoindolin-1-one (16 mg, 13%). ESI-MS [M+H+]=401.2.

reactant | 5-Amino-2-butylisoindolin-1-one | 0.236 mmol, 48.1 mg | NC=1C=C2CN(C(C2=CC1)=O)CCCC | C12H16N2O
reactant | 4-(benzylamino)nicotinaldehyde | 0.236 mmol, 50 mg | C(C1=CC=CC=C1)NC1=CC=NC=C1C=O | C13H12N2O
reactant | Sodium triacetoxyborohydride | 0.471 mmol, 100 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | triacetoxyborohydride | 0.235 mmol, 50 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 5-((4-(benzylamino)pyridin-3-yl)methylamino)-2-butylisoindolin-1-one | 16 mg, 13% | C(C1=CC=CC=C1)NC1=C(C=NC=C1)CNC=1C=C2CN(C(C2=CC1)=O)CCCC | C25H28N4O
